US06670373B1
N-(3,4,5-Trimethoxyphenyl)-3-(5-phenyl-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide
To a solution of 4-carboxy-5-phenyl-3-(2-chloro-6-fluorophenyl)isoxazole (0.135 g, 0.425 mmol) and 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide (0.129 g, 0.408 mmol) in dichloromethane (5 ml) was added EDCI (0.082 g, 0.51 mmol) and DMAP (0.062 g, 0.51 mmol) and stirred for 14 h. The mixture was applied to a silica gel chromatography column. Elution with hexanes and ethyl acetate (gradient) gave the title compound (0.162 g, 64%).

reactant | 4-carboxy-5-phenyl-3-(2-chloro-6-fluorophenyl)isoxazole | 0.425 mmol, 0.135 g | C(=O)(O)C=1C(=NOC1C1=CC=CC=C1)C1=C(C=CC=C1F)Cl | C16H9ClFNO3
reactant | 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide | 0.408 mmol, 0.129 g | NC=1C=C(C=CC1)CC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C17H20N2O4
reactant | EDCI | 0.51 mmol, 0.082 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.51 mmol, 0.062 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3,4,5-Trimethoxyphenyl)-3-(5-phenyl-3-(2-chloro-6-fluoro-phenyl)isoxazol-4-oyl)aminophenyl Acetamide | 0.162 g, 64% | COC=1C=C(C=C(C1OC)OC)NC(CC1=CC(=CC=C1)NC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=C(C=CC=C1F)Cl)=O | C33H27ClFN3O6
